* Pixel sensor
**********************************************************************
**        Copyright (c) 2021 Carsten Wulff Software, Norway
** *******************************************************************
** Created       : wulff at 2021-7-22
** *******************************************************************
**  The MIT License (MIT)
**
**  Permission is hereby granted, free of charge, to any person obtaining a copy
**  of this software and associated documentation files (the "Software"), to deal
**  in the Software without restriction, including without limitation the rights
**  to use, copy, modify, merge, publish, distribute, sublicense, and/or sell
**  copies of the Software, and to permit persons to whom the Software is
**  furnished to do so, subject to the following conditions:
**
**  The above copyright notice and this permission notice shall be included in all
**  copies or substantial portions of the Software.
**
**  THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS OR
**  IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF MERCHANTABILITY,
**  FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT. IN NO EVENT SHALL THE
**  AUTHORS OR COPYRIGHT HOLDERS BE LIABLE FOR ANY CLAIM, DAMAGES OR OTHER
**  LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE, ARISING FROM,
**  OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR OTHER DEALINGS IN THE
**  SOFTWARE.
**
**********************************************************************
* Include
*----------------------------------------------------------------
.include ../../models/ptm_130.spi
.include ../../lib/SUN_TRIO_GF130N.spi


*----------------------------------------------------------------
* Options
*----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-6 abstol=1e-6


* Paramater
.param w_n = 1.13u
.param w_p = {w_n * 1}
.param lu = 0.65u

* Sources 
VDD VDD VSS dc VDD
VSS VSS 0 dc 0
V2 VSTORE 0 dc 0 
VRA VRAMP_TEST 0 dc 0.75

MP1 VDD MPS1 MPS1 VSS pmos w=w_p l=lu
MP2 VDD MPS1 MPS2 VSS pmos w=w_p l=lu
MN3 MPS1 VSTORE MNS3 VSS nmos w=w_n l=lu
MN4 MPS2 VRAMP MNS3 VSS nmos w=w_n l=lu
MN5 MNS3 VBN1 VSS VSS nmos w=w_n l=lu
MP6 VDD MPS2 VCMP_OUT VSS pmos w=w_p l=lu
MN7 VCMP_OUT VBN1 VSS VSS nmos w=w_n l=lu

.dc V2 0 1.5 0.01 
.plot V(VCMP_OUT) V(V2) V(VSTORE) V(VSS) V(VCMP_OUT)